US08119806B2
3-(4-Chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-yl 3-(nitrooxy)propyl carbonate
To a solution of 3-hydroxypropyl nitrate (100 mg, 0.83 mmol) in THF (10 mL) at 0° C. was added phosgene (20% in toluene, 425 mg, 0.86 mmol). After stirring at 0° C. for 45 min, the mixture was allowed to warm to rt. After stirring at rt for 2 hr, the mixture was concentrated. The residue was dissolved in 10 mL CH2Cl2, which was added to a suspension of cicletanine (150 mg, 0.57 mmol) and diisopropylethylamine (185 mg, 1.43 mmol). After stirring at rt over night, the mixture was diluted with H2O and extracted with CH2Cl2. The organic layer was washed with brine, dried over MgSO4 and concentrated. The residue was purified by flash chromatography (Biotage SP1; column 25M; TLC method: n-hexane/ethyl acetate 7/3; Rf=0.35), affording the title product. 1H NMR (500 MHz, CDCl3) δ 8.37 (s, 1H), 7.40-7.28 (m, 4H), 6.29 (s, 1H), 5.42-5.25 (m, 2H), 4.66 (m, 2H), 4.49 (m, 2H), 2.71 (s, 3H), 2.28-2.23 (m, 2H).

reactant | 3-hydroxypropyl nitrate | 0.83 mmol, 100 mg | [N+](=O)(OCCCO)[O-] | C3H7NO4
reactant | phosgene | 0.86 mmol, 425 mg | C(=O)(Cl)Cl | CCl2O
reactant | cicletanine | 0.57 mmol, 150 mg | CC1=C(C2=C(C=N1)C(OC2)C=3C=CC(=CC3)Cl)O | C14H12ClNO2
reactant | diisopropylethylamine | 1.43 mmol, 185 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 3-(4-Chlorophenyl)-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-yl 3-(nitrooxy)propyl carbonate | C(OC=1C2=C(C=NC1C)C(OC2)C2=CC=C(C=C2)Cl)(OCCCO[N+](=O)[O-])=O | C18H17ClN2O7
